US06762320B2
c) N-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-malonamic acid methyl ester
In analogy to example 1, the title compound is prepared from 4-(4-trifluoromethyl-benzyloxy)-phenylamine and chlorocarbonyl-acetic acid methyl ester. Yield: 71%. Colorless solid. MS: m/e=368.1 (M++H).

reactant | 4-(4-trifluoromethyl-benzyloxy)-phenylamine | FC(C1=CC=C(COC2=CC=C(C=C2)N)C=C1)(F)F | C14H12F3NO
reactant | chlorocarbonyl-acetic acid methyl ester | COC(CC(=O)Cl)=O | C4H5ClO3
product | N-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-malonamic acid methyl ester | Yield: 71% | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)=O | C18H16F3NO4
